US08445510B2
1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-1H-pyrazole
A mixture of trans-4-(4-iodo-1H-pyrazol-1-yl)cyclohexanol (1.00 g, 3.42 mmol), tert-butyldimethylsilyl chloride (1.03 g, 6.85 mmol), 4-dimethylaminopyridine (80 mg, 0.7 mmol), imidazole (699 mg, 10.3 mmol) and DCM (20 mL, 300 mmol) was stirred rt for 20 min. The material was transferred to a separatory funnel, extracting with DCM and sat. NaHCO3. The organic layer was dry-loaded onto silica gel for column chromatography, eluting with 3% EtOAc/hexanes. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a clear oil. Typical yields are 95%. 1H NMR (400 MHz, DMSO-d6): δ=0.05 (s, 6H), 0.86 (s, 9H), 1.33-1.47 (m, 2H), 1.70-1.91 (m, 4H), 1.96 (d, J=11.9 Hz, 2H), 3.58-3.75 (m, 1H), 4.11-4.21 (m, 1H), 7.49 (s, 1H), 7.92 (s, 1H). MS (ES+): m/z=407.05 (100) [MH+]. HPLC: tR=3.22 min (v.v. non-polar—5 min, ZQ3).

reactant | trans-4-(4-iodo-1H-pyrazol-1-yl)cyclohexanol | 3.42 mmol, 1.00 g | IC=1C=NN(C1)[C@@H]1CC[C@H](CC1)O | C9H13IN2O
reactant | tert-butyldimethylsilyl chloride | 6.85 mmol, 1.03 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 10.3 mmol, 699 mg | N1C=NC=C1 | C3H4N2
reactant | DCM | 300 mmol, 20 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.7 mmol, 80 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-1H-pyrazole | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)I | C15H27IN2OSi
